US07300952B2
2a) 2-Amino-benzo[b]thiophene-3-carboxylic Acid Amide
A solution of 2-amino-benzo[b]thiophene-3-carbonitrile (50 mg, 0.29 mmol) in concentrated H2SO4 (1.5 mL) was heated at 60° C. for 2 h. The solution was poured into ice-water (5 mL), mixed with saturated NaHCO3 solution (30 mL), and extracted with ethyl acetate (30 mL, 3×). The combined organic phases were dried over MgSO4, filtered, and concentrated. Flash chromatography (hexanes/ethyl acetate, 1:1) then provided the title compound (23 mg, 41%) as a white solid: MS (ES) m/z 193 (M+H)+.

reactant | 2-amino-benzo[b]thiophene-3-carbonitrile | 0.29 mmol, 50 mg | NC1=C(C2=C(S1)C=CC=C2)C#N | C9H6N2S
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | H2SO4 | 1.5 mL | OS(=O)(=O)O | H2O4S
product | 2-Amino-benzo[b]thiophene-3-carboxylic Acid Amide | 23 mg, 41% | NC1=C(C2=C(S1)C=CC=C2)C(=O)N | C9H8N2OS
